US07435837B2
Treatment of 4-chloro-2-methoxyphenol (15.00 g, 0.10 mol) with sodium hydride (4.4 g, 0.11 mol, 60 wt. %) and 3-chloro-2-methylpropene (12.00 g, 0.12 mol) generally according to the procedure described for Intermediate 13 provided 19.3 g (91%) of 4-chloro-2-methoxy-1-[(2-methylprop-2-enyl)oxy]benzene as a colorless oil. Treatment of the allyl ether in refluxing mesitylene generally according to the procedure described for Intermediate 8 afforded 15.5 g (78%) of 4-chloro-2-methoxy-6-(2-methylprop-2-enyl)phenol as a pale yellow oil. Treatment of 4-chloro-2-methoxy-6-(2-methylprop-2-enyl)phenol (10.00 g, 0.047 mol) with 3-chloroperoxybenzoic acid (20.00 g, 0.089 mol, 77%) followed by potassium carbonate (20.00 g, 0.145 mol) generally according to the Procedure described for Intermediate 9 provided 8.00 g (74%) of (±)-(5-chloro-7-methoxy-2-methyl-2,3-dihydro-1-benzofuran-2-yl)methanol as a light yellow oil. Treatment of (±)-(5-chloro-7-methoxy-2-methyl-2,3-dihydro-1-benzofuran-2-yl)methanol (10.8 g, 0.047 mol) with p-toluenesulfonyl chloride (13.5 g, 0.071 mol), diisopropylethylamine (12.15 g, 0.094 mol), and 4-(dimethylamino)pyridine (0.35 g, 2.83 mmol) generally according to the procedure described for Intermediate 45 gave 13.8 g (76%) of (±)-(5-chloro-7-methoxy-2-methyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a white solid. mp 113-115° C.; Anal. calcd. for C18H19ClO5S: C, 56.47; H, 5.00. Found: C, 55.82; H, 4.94.

reactant | 4-chloro-2-methoxyphenol | 0.10 mol, 15.00 g | ClC1=CC(=C(C=C1)O)OC | C7H7ClO2
reactant | sodium hydride | 0.11 mol, 4.4 g | [H-].[Na+]
reactant | 3-chloro-2-methylpropene | 0.12 mol, 12.00 g | ClCC(=C)C | C4H7Cl
product | 4-chloro-2-methoxy-1-[(2-methylprop-2-enyl)oxy]benzene | 19.3 g, 91% | ClC1=CC(=C(C=C1)OCC(=C)C)OC | C11H13ClO2
